### PR TITLE
[Merged by Bors] - feat(Data/Nat/Factorization): some results on equality of powers of naturals proved from factorization

### PR DESCRIPTION
**Pull request by ShreckYe**
I came across some math olympiad problems in number theory that could benefit from these theorems, expecially those on the prime power equality `p ^ m = a ^ n`. A specialized `eq_of_factorization_eq'` is added BTW to help with proof search.

### CODE REVIEW

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 1]
```diff
@@ -476,4 +476,73 @@ lemma card_multiples' (N n : ℕ) : #{k ∈ range N.succ | k ≠ 0 ∧ n ∣ k}
...
         · simp [h, succ_div_of_not_dvd, ih]
 
+theorem exists_eq_pow_of_exponent_coprime_of_pow_eq_pow
+    {a b m n : ℕ} (ha : a ≠ 0) (hb : b ≠ 0) (hmn : m.Coprime n) (h : a ^ m = b ^ n) :
+    ∃ c, a = c ^ n ∧ b = c ^ m := by
+  by_cases hn : n = 0
+  · simp [hn] at h hmn
+    simp [hmn] at h
+    use b
+    simp [h, hn, hmn]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factorization/Basic.lean]: This seems to work:
```suggestion
  · use b
    simp_all
```

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 2]
```diff
@@ -476,4 +476,73 @@ lemma card_multiples' (N n : ℕ) : #{k ∈ range N.succ | k ≠ 0 ∧ n ∣ k}
...
+  have factorization_pow_eq := congrArg factorization h
+  rw [factorization_pow, factorization_pow] at factorization_pow_eq
+  let c_factorization := a.factorization.mapRange (· / n) (Nat.zero_div n)
+  let c := c_factorization.prod (· ^ ·)
+  use c
+  have factorization_eq_n_smul_c_factorization_of_eq_c_pow_n
+      x (hx : x ≠ 0) n (h : x.factorization = n • c_factorization) : x = c ^ n := by
+    suffices x.factorization = (c ^ n).factorization by
+      refine eq_of_factorization_eq hx ?_ (congrFun (congrArg DFunLike.coe this))
+      suffices c ≠ 0 by exact pow_ne_zero n this
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factorization/Basic.lean]:
```suggestion
      suffices c ≠ 0 from pow_ne_zero n this
```

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 3]
```diff
@@ -476,4 +476,73 @@ lemma card_multiples' (N n : ℕ) : #{k ∈ range N.succ | k ≠ 0 ∧ n ∣ k}
...
+      simp [c, c_factorization]
+    convert h
+    rw [factorization_pow]
+    suffices c.factorization = c_factorization by rw [this]
+    unfold c
+    refine prod_pow_factorization_eq_self ?_
+    intro p p_mem
+    exact prime_of_mem_primeFactors ((Finsupp.support_mapRange) p_mem)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factorization/Basic.lean]:
```suggestion
    exact prime_of_mem_primeFactors (Finsupp.support_mapRange p_mem)
```

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 4]
```diff
@@ -476,4 +476,73 @@ lemma card_multiples' (N n : ℕ) : #{k ∈ range N.succ | k ≠ 0 ∧ n ∣ k}
...
+  have mul_factorization_p_eq_and_n_dvd_a_factorization_p p :
+      m * a.factorization p = n * b.factorization p ∧ n ∣ a.factorization p := by
+    have := congrFun (congrArg DFunLike.coe factorization_pow_eq) p
+    simp at this
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factorization/Basic.lean]: Squeeze

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 5]
```diff
@@ -476,4 +476,73 @@ lemma card_multiples' (N n : ℕ) : #{k ∈ range N.succ | k ≠ 0 ∧ n ∣ k}
...
+    exact ⟨this, hmn.symm.dvd_of_dvd_mul_left (Dvd.intro (b.factorization p) this.symm)⟩
+  constructor
+  · apply factorization_eq_n_smul_c_factorization_of_eq_c_pow_n a ha n
+    ext p
+    simp [c_factorization]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factorization/Basic.lean]: Squeeze

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 6]
```diff
@@ -476,4 +476,73 @@ lemma card_multiples' (N n : ℕ) : #{k ∈ range N.succ | k ≠ 0 ∧ n ∣ k}
...
+    exact (Nat.mul_div_cancel' (mul_factorization_p_eq_and_n_dvd_a_factorization_p p).2).symm
+  · apply factorization_eq_n_smul_c_factorization_of_eq_c_pow_n b hb m
+    ext p
+    simp [c_factorization]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factorization/Basic.lean]: Squeeze

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 7]
```diff
@@ -476,4 +476,73 @@ lemma card_multiples' (N n : ℕ) : #{k ∈ range N.succ | k ≠ 0 ∧ n ∣ k}
...
+    rcases n_dvd_afp with ⟨k, afp_eq⟩
+    have n_pos := zero_lt_of_ne_zero hn
+    have := Nat.div_eq_of_eq_mul_right n_pos afp_eq
+    rw [this]
+    rw [afp_eq, Nat.mul_left_comm m n k] at mul_factorization_p_eq
+    exact Nat.mul_left_cancel n_pos mul_factorization_p_eq.symm
+
+theorem exists_eq_pow_of_pow_eq_pow
+    {a b m n : ℕ} (ha : a ≠ 0) (hb : b ≠ 0) (hmn : m ≠ 0 ∨ n ≠ 0) (h : a ^ m = b ^ n) :
+    let g := gcd m n; ∃ c, a = c ^ (n / g) ∧ b = c ^ (m / g) := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/Data/Nat/Factorization/Basic.lean]: I think
```suggestion
    letI g := gcd m n; ∃ c, a = c ^ (n / g) ∧ b = c ^ (m / g) := by
```
or inline manually

**Review by Ruben-VandeVelde — COMMENTED** [review]
Thanks, some comments below

**Comment by ShreckYe** [comment]
@Ruben-VandeVelde Thanks for the comments. I have applied the suggestions and try squeezing one proof as far as can, but I tried and am not sure how to squeeze the other parts furthur. And as I remember, I already tried to squeeze them before submitting this PR. I will comment some details of my attempts above. If you know other ways to do this further, please help me update the code.

File: Mathlib/Data/Nat/Factorization/Basic.lean (hunk 4 above)
Comment (ShreckYe) [reply Mathlib/Data/Nat/Factorization/Basic.lean]: I tried removing the type `m * a.factorization p = n * b.factorization p ∧ n ∣ a.factorization p` but it would cause the proof not to compile. I also tried inlining `this` but found out it's used twice below so doing this wouldn't save code.

File: Mathlib/Data/Nat/Factorization/Basic.lean (hunk 5 above)
Comment (ShreckYe) [reply Mathlib/Data/Nat/Factorization/Basic.lean]: I commented out `simp [c_factorization]` in commit 72895e8911f9fdf258a6b5251a1a717346da35c8 and doing this can save a line. Besides this, I can also replace the `apply` with `exact ... <$> ...` but doing this wouldn't save any lines.

File: Mathlib/Data/Nat/Factorization/Basic.lean (hunk 6 above)
Comment (ShreckYe) [reply Mathlib/Data/Nat/Factorization/Basic.lean]: Similar to above, but this `simp [c_factorization]` can not be removed. Some `rcases`s below have been replaced with `obtain`s.

**Comment by ShreckYe** [comment]
-awaiting-author

File: Mathlib/Data/Nat/Factorization/Basic.lean (hunk 6 above)
Comment (robin-carlier) [reply Mathlib/Data/Nat/Factorization/Basic.lean]: When Ruben tells you to "squeeze", he does not mean that you should remove it, but rather that this is what we call a "non-terminal simp", i.e a a call to the `simp` tactic that does not closes the goal, and so that it should be replaced by an equivalent `simp only` call. The rationale behind this is that new simp lemmas may be added to Mathlib and this might result in a change of the proof state here, and ultimately break the proof. 

To generate an equivalent `simp only` call, you can replace `simp` by `simp?` and change the line accordingly, here for instance `simp? [c_factorization]` suggests 

```
    simp only [coe_smul, Pi.smul_apply, mapRange_apply, smul_eq_mul, c_factorization]
```

File: Mathlib/Data/Nat/Factorization/Basic.lean (hunk 4 above)
Comment (robin-carlier) [reply Mathlib/Data/Nat/Factorization/Basic.lean]: See other comment for what is meant by "squeeze".

For this particular `simp` though, the proof compiles just fine without this so might as well remove it.

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 8]
```diff
@@ -478,4 +478,71 @@ lemma card_multiples' (N n : ℕ) : #{k ∈ range N.succ | k ≠ 0 ∧ n ∣ k}
...
+    exact prime_of_mem_primeFactors (Finsupp.support_mapRange p_mem)
+  have mul_factorization_p_eq_and_n_dvd_a_factorization_p p :
+      m * a.factorization p = n * b.factorization p ∧ n ∣ a.factorization p := by
+    have := congrFun (congrArg DFunLike.coe factorization_pow_eq) p
+    simp at this
+    exact ⟨this, hmn.symm.dvd_of_dvd_mul_left (Dvd.intro (b.factorization p) this.symm)⟩
+  constructor
+  · apply factorization_eq_n_smul_c_factorization_of_eq_c_pow_n a ha n
+    ext p
+    --simp [c_factorization] -- TODO This can be removed if necessary.
```
Comment (robin-carlier) [inline Mathlib/Data/Nat/Factorization/Basic.lean]:
```suggestion
```

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 9]
```diff
@@ -478,4 +478,71 @@ lemma card_multiples' (N n : ℕ) : #{k ∈ range N.succ | k ≠ 0 ∧ n ∣ k}
...
+    convert h
+    rw [factorization_pow]
+    suffices c.factorization = c_factorization by rw [this]
+    unfold c
+    refine prod_pow_factorization_eq_self ?_
+    intro p p_mem
+    exact prime_of_mem_primeFactors (Finsupp.support_mapRange p_mem)
+  have mul_factorization_p_eq_and_n_dvd_a_factorization_p p :
+      m * a.factorization p = n * b.factorization p ∧ n ∣ a.factorization p := by
+    have := congrFun (congrArg DFunLike.coe factorization_pow_eq) p
```
Comment (robin-carlier) [inline Mathlib/Data/Nat/Factorization/Basic.lean]: If you want to avoid explicit calls to things like `congrFun`, `congrArg` and friends, using the `congr()` term elaborator is an option:

```suggestion
    have := congr($factorization_pow_eq p)
```

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 10]
```diff
@@ -478,4 +478,71 @@ lemma card_multiples' (N n : ℕ) : #{k ∈ range N.succ | k ≠ 0 ∧ n ∣ k}
...
+  · apply factorization_eq_n_smul_c_factorization_of_eq_c_pow_n a ha n
+    ext p
+    --simp [c_factorization] -- TODO This can be removed if necessary.
+    exact (Nat.mul_div_cancel' (mul_factorization_p_eq_and_n_dvd_a_factorization_p p).2).symm
+  · apply factorization_eq_n_smul_c_factorization_of_eq_c_pow_n b hb m
+    ext p
+    simp [c_factorization]
+    obtain ⟨mul_factorization_p_eq, n_dvd_afp⟩ :=
+      mul_factorization_p_eq_and_n_dvd_a_factorization_p p
+    obtain ⟨k, afp_eq⟩ :=  n_dvd_afp
```
Comment (robin-carlier) [inline Mathlib/Data/Nat/Factorization/Basic.lean]:
```suggestion
    obtain ⟨k, afp_eq⟩ := n_dvd_afp
```

File: Mathlib/Data/Nat/Factorization/PrimePow.lean [hunk 11]
```diff
@@ -173,3 +173,32 @@ lemma Nat.Primes.prodNatEquiv_symm_apply {n : ℕ} (hn : IsPrimePow n) :
...
+variable {p a m n : ℕ} (hp : p.Prime) (hn : n ≠ 0) (h : p ^ m = a ^ n)
+include hp h
+
+theorem m_eq_n_mul_a_factorization_p_of_prime_p_of_p_pow_m_eq_a_pow_n :
+    m = n * a.factorization p := by
+  have := congrArg Nat.factorization h
+  rw [Nat.Prime.factorization_pow hp, Nat.factorization_pow] at this
+  have := congrFun (congrArg DFunLike.coe this) p
+  simp at this
+  exact this
```
Comment (robin-carlier) [inline Mathlib/Data/Nat/Factorization/PrimePow.lean]:
```suggestion
  simpa using congr($this p)
```

usually, the `have foo := bar ; simp at foo; exact foo` pattern can be replaced by `simpa using bar` for shorter proofs.

**Review by robin-carlier — COMMENTED** [review]
I left out a few comment, like @Ruben-VandeVelde, I think this looks reasonable, and the comments mostly concern minor improvements and removing some non-terminal simp.

File: Mathlib/Data/Nat/Factorization/Basic.lean (hunk 6 above)
Comment (ShreckYe) [reply Mathlib/Data/Nat/Factorization/Basic.lean]: Sorry I did not understand the term. I thought "squeeze" meant something similar to "simplify" or "golf".

File: Mathlib/Data/Nat/Factorization/PrimePow.lean (hunk 11 above)
Comment (ShreckYe) [reply Mathlib/Data/Nat/Factorization/PrimePow.lean]: Thanks for explaining. Just learnt this recently.

**Comment by ShreckYe** [comment]
-awaiting-author

File: Mathlib/Data/Nat/Factorization/Basic.lean [hunk 12]
```diff
@@ -483,4 +483,69 @@ lemma card_multiples' (N n : ℕ) : #{k ∈ range N.succ | k ≠ 0 ∧ n ∣ k}
...
+    ext p
+    simp only [coe_smul, Pi.smul_apply, mapRange_apply, smul_eq_mul, c_factorization]
+    obtain ⟨mul_factorization_p_eq, n_dvd_afp⟩ :=
+      mul_factorization_p_eq_and_n_dvd_a_factorization_p p
+    obtain ⟨k, afp_eq⟩ := n_dvd_afp
+    have n_pos := zero_lt_of_ne_zero hn
+    have := Nat.div_eq_of_eq_mul_right n_pos afp_eq
+    rw [this]
+    rw [afp_eq, Nat.mul_left_comm m n k] at mul_factorization_p_eq
+    exact Nat.mul_left_cancel n_pos mul_factorization_p_eq.symm
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Factorization/Basic.lean]: You can get rid of the assumptions that `a` and `b` are non-zero.
Also, restructuring the proof allows to shorten it a bit
```suggestion
theorem exists_eq_pow_of_exponent_coprime_of_pow_eq_pow
    {a b m n : ℕ} (hmn : m.Coprime n) (h : a ^ m = b ^ n) :
    ∃ c, a = c ^ n ∧ b = c ^ m := by
  by_cases ha0 : a = 0
  · symm at h
    by_cases hm0 : m = 0
    · simp_all
    · use 0
      simp_all
  by_cases hn0 : n = 0
  · use b
    simp_all
  let factors := a.factorization.mapRange (· / n) (Nat.zero_div n)
  set c := factors.prod (· ^ ·) with hc
  use c
  suffices ha : a = c ^ n by
    refine ⟨ha, ?_⟩
    apply Nat.pow_left_injective hn0
    simp [← h, ha, Nat.pow_right_comm]
  apply eq_of_factorization_eq ha0 (by simp [c, factors])
  intro p
  have foo (p) (hp : p ∈ factors.support) : Prime p := by
    exact prime_of_mem_primeFactors (Finsupp.support_mapRange hp)
  rw [factorization_pow, hc, prod_pow_factorization_eq_self foo]
  suffices n ∣ a.factorization p by
    simp [factors, Nat.mul_div_cancel' this]
  refine hmn.symm.dvd_of_dvd_mul_left ⟨b.factorization p, ?_⟩
  simpa using congr(factorization $h p)
```

**Review by jcommelin — COMMENTED** [review]
General remarks:
- we try to keep the names of local hypotheses short (like `hp` or `ha0`, or `key` or `aux`)
- do not refer to variable names in the names of your lemmas

**Comment by ShreckYe** [comment]
Thanks @jcommelin. Updated with your suggestions.

-awaiting-author

File: Mathlib/Data/Nat/Factorization/PrimePow.lean [hunk 13]
```diff
@@ -177,3 +177,30 @@ lemma Nat.Primes.prodNatEquiv_symm_apply {n : ℕ} (hn : IsPrimePow n) :
...
       (⟨n.minFac, minFac_prime hn.ne_one⟩, n.factorization n.minFac - 1) :=
   rfl
+
+namespace Nat
+
+section PrimePowEqPow
+variable {p a m n : ℕ} (hp : p.Prime) (hn : n ≠ 0) (h : p ^ m = a ^ n)
+include hp h
+
+theorem exponent_eq_expoenent_mul_base_factorization_prime_of_prime_pow_eq_base_pow :
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Factorization/PrimePow.lean]:
```suggestion
theorem exponent_eq_exponent_mul_factorization_of_prime_pow_eq_base_pow :
```
Let's shorten this a bit, to keep it usable.

File: Mathlib/Data/Nat/Factorization/PrimePow.lean [hunk 14]
```diff
@@ -177,3 +177,30 @@ lemma Nat.Primes.prodNatEquiv_symm_apply {n : ℕ} (hn : IsPrimePow n) :
...
+    m = n * a.factorization p := by
+  have := congrArg Nat.factorization h
+  rw [Nat.Prime.factorization_pow hp, Nat.factorization_pow] at this
+  simpa using congr($this p)
+
+theorem exponent_dvd_of_prime_pow_eq_pow : n ∣ m :=
+  Dvd.intro (a.factorization p)
+    (exponent_eq_expoenent_mul_base_factorization_prime_of_prime_pow_eq_base_pow hp h).symm
```
Comment (jcommelin) [inline Mathlib/Data/Nat/Factorization/PrimePow.lean]:
```suggestion
    (exponent_eq_exponent_mul_factorization_of_prime_pow_eq_base_pow hp h).symm
```

**Review by jcommelin — COMMENTED** [review]
bors d+
